US08071586B2
(3-Pyridin-3-yl-phenyl)-carbamic acid phenyl ester
A solution of 3-pyridin-3-ylaniline (500 mg, 2.94 mmol) in tetrahydrofuran (6 mL) was added at room temperature to a solution of phenyl chloroformate (450 mg, 2.94 mmol), then triethylamine (288 mg, 2.84 mmol) was added. After 15 min the reaction mixture was concentrated under vacuum, then the residue was partitioned between ethyl acetate and 1 M aq. sodium hydrogencarbonate solution. The organic layer was dried (MgSO4) and evaporated. The residue was taken up in tetrahydrofuran (1 mL), then heptane (10 mL) was added. The slurry was stirred for 30 min, then the precipitate was collected by filtration to afford the title compound (566 mg, 68%). Off-white solid, MS (ISP)=291.1 (M+H)+.

reactant | 3-pyridin-3-ylaniline | 2.94 mmol, 500 mg | N1=CC(=CC=C1)C=1C=C(N)C=CC1 | C11H10N2
reactant | phenyl chloroformate | 2.94 mmol, 450 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | triethylamine | 2.84 mmol, 288 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (3-Pyridin-3-yl-phenyl)-carbamic acid phenyl ester | 566 mg, 68% | C1(=CC=CC=C1)OC(NC1=CC(=CC=C1)C=1C=NC=CC1)=O | C18H14N2O2
